US07632857B2
4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide hydrochloride salt
Procedure AA: Dissolve 4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide in minimal dichloromethane and add 1M hydrochloric acid in ether until the solution becomes cloudy. Add 1:1 ether/hexanes and concentrate in vacuo to yield the title compound. MS (m/e): 392.3 (M+1)

reactant | 4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide | CNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C24H29N3O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide hydrochloride salt | Cl.CNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | InChI=1S/C24H29N3O2.ClH/c1-25-23(28)20-10-6-18(7-11-20)19-8-12-21(13-9-19)24(29)27-16-4-5-22(27)17-26-14-2-3-15-26;/h6-13,22H,2-5,14-17H2,1H3,(H,25,28);1H/t22-;/m0./s1
